US05359076
Methyl 2-(4-methoxyphenyl)-1,2,3,4-tetrahydroquinoline-6-acetate
Using methyl p-aminophenylacetate and ethyl p-methoxybenzoylacetate as starting raw materials, treatment was made similarly to Example 1 to obtain aimed product.

reactant | methyl p-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OC | C9H11NO2
reactant | ethyl p-methoxybenzoylacetate | COC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O4
product | Methyl 2-(4-methoxyphenyl)-1,2,3,4-tetrahydroquinoline-6-acetate | COC1=CC=C(C=C1)C1NC2=CC=C(C=C2CC1)CC(=O)OC | C19H21NO3
